US07829707B2
(a) 3-Hydroxy-2-(2-methoxyethoxy)benzaldehyde
2-Chloroethyl methyl ether (4.63 mL, 50.7 mmol) was added dropwise to a mixture of 2,3-dihydroxybenzaldehyde (7.0 g, 50.7 mmol), potassium iodide (8.41 g, 50.69 mmol) and potassium carbonate (7.71 g, 55.8 mmol) in DMF (80 mL). The resulting mixture was stirred at r.t. under a nitrogen atmosphere for two days and at 70° C. for two days. The reaction mixture was partitioned between saturated ammonium chloride (aq.) and CH2Cl2. The water phase was re-extracted with CH2Cl2 and the combined organic phases were washed with brine, dried (Na2SO4) and evaporated onto silica. Purification by flash column chromatography (heptane/ethyl acetate gradient; 0 to 30% ethyl acetate) yielded a crude oil which was further purified by flash column chromatography (heptane/ethyl acetate gradient; 0 to 40% ethyl acetate) to yield the title compound (3.13 g, 31%) as an oil.

reactant | 2-Chloroethyl methyl ether | 50.7 mmol, 4.63 mL | COCCCl | C3H7ClO
reactant | 2,3-dihydroxybenzaldehyde | 50.7 mmol, 7.0 g | OC1=C(C=O)C=CC=C1O | C7H6O3
reactant | potassium iodide | 50.69 mmol, 8.41 g | [I-].[K+]
reactant | potassium carbonate | 55.8 mmol, 7.71 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 3-Hydroxy-2-(2-methoxyethoxy)benzaldehyde | 3.13 g, 31% | OC=1C(=C(C=O)C=CC1)OCCOC | C10H12O4
